US06489344B1
[4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]{2-[(6-chlorobenzothiazo 1-2-yl)amino]ethyl}amine was prepared from, [4-(2,4-dichlorophenyl)-5-imidazol-1-ylpyrimidin-2-ylethylamine and 2,6-dichlorobenzothiazole in accordance with the procedure described above for the preparation of [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine.

reactant | 4-(2,4-dichlorophenyl)-5-imidazol-1-ylpyrimidin-2-ylethylamine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1N1C=NC=C1)CCN | C15H13Cl2N5
reactant | 2,6-dichlorobenzothiazole | ClC=1SC2=C(N1)C=CC(=C2)Cl | C7H3Cl2NS
reactant | [4-(2,4-dichlorophenyl)-5-imidazol-2-ylpyrimidin-2-yl]{2-[(6-methoxy-5-nitro(2-pyridyl))amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC1=NC(=C(C=C1)[N+](=O)[O-])OC | C21H18Cl2N8O3
product | [4-(2,4-dichlorophenyl)-5-imidazolylpyrimidin-2-yl]{2-[(6-chlorobenzothiazo 1-2-yl)amino]ethyl}amine | ClC1=C(C=CC(=C1)Cl)C1=NC(=NC=C1C=1NC=CN1)NCCNC=1SC2=C(N1)C=CC(=C2)Cl | C22H16Cl3N7S
